US07001914B2
(R)-N-(1-Azabicyclo[2.2.2]oct-3-yl)(5-(3-chlorophenyl)thiophene-2-carboxamide)
Prepared by a method analogous to that described in Example 1 from (R)-N-(1-azabicyclo[2.2.2]oct-3-yl)(5-bromothiophene-2-carboxamide) and 3-chlorophenylboronic acid, using tetrakis(triphenylphosphine)palladium (0) and sodium carbonate in a mixture of tetrahydrofuran, ethanol and water. The compound was purified by flash chromatography using a gradient of 5%-20% 3.5M methanolic ammonia/chloroform mixtures as the eluent to give the title compound as a colourless solid; MS (ES+) 347 (MH+).

reactant | (R)-N-(1-azabicyclo[2.2.2]oct-3-yl)(5-bromothiophene-2-carboxamide) | N12C[C@@H](C(CC1)CC2)NC(=O)C=2SC(=CC2)Br | C12H15BrN2OS
reactant | 3-chlorophenylboronic acid | ClC=1C=C(C=CC1)B(O)O | C6H6BClO2
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | ethanol | C(C)O | C2H6O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
catalyst | tris(dibenzylideneacetone)dipalladium | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | water | O | H2O
product | (R)-N-(1-Azabicyclo[2.2.2]oct-3-yl)(5-(3-chlorophenyl)thiophene-2-carboxamide) | N12C[C@@H](C(CC1)CC2)NC(=O)C=2SC(=CC2)C2=CC(=CC=C2)Cl | C18H19ClN2OS
